US07960394B2
5-Fluoro-3-methyl-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]quinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 2-amino-6-fluorobenzoic acid, methylamine and 4-(3-pyrrolidin-1-ylpropoxy)benzaldehyde.

reactant | 2-amino-6-fluorobenzoic acid | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | methylamine | CN | CH5N
reactant | 4-(3-pyrrolidin-1-ylpropoxy)benzaldehyde | N1(CCCC1)CCCOC1=CC=C(C=O)C=C1 | C14H19NO2
product | 5-Fluoro-3-methyl-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]quinazolin-4(3H)-one | FC1=C2C(N(C(=NC2=CC=C1)C1=CC=C(C=C1)OCCCN1CCCC1)C)=O | C22H24FN3O2
